US07662831B2
Following the procedure of Example 1, Step 1, cyclooctanone (6.9 mL, 52 mmol), 1-aminoindoline (7.0 g, 52 mmol) and concentrated sulfuric acid (10 mL) in water (90 mL) provided 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole (3.6 g). MS (ES) m/z 226.2.

reactant | cyclooctanone | 52 mmol, 6.9 mL | C1(CCCCCCC1)=O | C8H14O
reactant | 1-aminoindoline | 52 mmol, 7.0 g | NN1CCC2=CC=CC=C12 | C8H10N2
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 90 mL | O | H2O
product | 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole | 3.6 g | C1=C2C3=C(N4C2=C(C=C1)CC4)CCCCCC3 | C16H19N
